US05315025
A solution of 2-phenoxyphenylacetic acid (2.75 g) in dry methanol (30 ml) containing concentrated sulphuric acid (0.3 ml) was heated under reflux for 2 hours then allowed to cool, poured into water and extracted with ether. The extracts were washed with water, dried and concentrated under reduced pressure to give methyl 2-phenoxyphenylacetate (2.65 g, 91%) as a pale yellow oil.

reactant | 2-phenoxyphenylacetic acid | 2.75 g | O(C1=CC=CC=C1)C1=C(C=CC=C1)CC(=O)O | C14H12O3
reactant | sulphuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | methanol | 30 ml | CO | CH4O
product | methyl 2-phenoxyphenylacetate | 2.65 g, 91% | O(C1=CC=CC=C1)C1=C(C=CC=C1)CC(=O)OC | C15H14O3
